US05519034
Decanoyl chloride (0.45 g) was added to a mixture of (+)-1-[1-(2-chlorophenyl)cyclopropyl]-7-hydroxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide (1 g, prepared in a similar manner to that described in Example 77), triethylamine (0.7 g) and ether (30 ml). The mixture was stirred at ambient temperature for 24 hours, then washed with water, 10% aqueous sodium hydroxide solution, and brine. The organic layer was dried over magnesium sulphate, filtered and concentrated to yield a gum which was purified by chromatography on a silica gel column using a 1:3 mixture of ether and light petroleum as eluant. The relevant fractions were concentrated in vacuo to yield (+)-1-[1-(2-chlorophenyl)cyclopropyl]-7-decanoyloxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (0.95 g) as a gum; having specific optical rotation αD of +21.47°.

reactant | Decanoyl chloride | 0.45 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | (+)-1-[1-(2-chlorophenyl)cyclopropyl]-7-hydroxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC(=C(C=C12)O)OC)C
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | ether | 30 ml | CCOCC | C4H10O
product | (+)-1-[1-(2-chlorophenyl)cyclopropyl]-7-decanoyloxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | 0.95 g | ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC(=C(C=C12)OC(CCCCCCCCC)=O)OC)C | C30H40ClNO3
